US07514437B2
A solution of methyl N-{(1R)-1-(2,4-difluorophenyl)-2-[(2-hydroxyphenyl)amino]-2-oxoethyl}-L-leucinate (203 mg) and 1,1′-thiocarbonyldiimidazole (100 mg) in dichloromethane (5 ml) was left to stand for 18 hours. Water (10□1) was added to the reaction mixture and this was then stirred rapidly for 30 minutes. After this, 1H-Benzotriazolium, 1-[bis(dimethylamino)methylene]-, tetrafluoroborate(1-), 3-oxide (TBTU, 321 mg) and a solution of dimethylamine in tetrahydrofuran (0.5 ml of 2M solution) were added. The reaction mixture was stirred for a further 18 hours and was then passed down an SPE (5 g, silica) eluting with a gradient (8:1 to 1:2 cyclohexane:ethyl acetate). The required fractions were combined and evaporated to furnish methyl N-[1-(2,4-difluorophenyl)-2-(dimethylamino)-2-oxoethyl]-L-leucinate (100 mg).

reactant | methyl N-{(1R)-1-(2,4-difluorophenyl)-2-[(2-hydroxyphenyl)amino]-2-oxoethyl}-L-leucinate | 203 mg | FC1=C(C=CC(=C1)F)[C@H](C(=O)NC1=C(C=CC=C1)O)N[C@@H](CC(C)C)C(=O)OC | C21H24F2N2O4
reactant | 1,1′-thiocarbonyldiimidazole | 100 mg | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 1H-Benzotriazolium | [NH2+]1N=NC2=C1C=CC=C2
reactant | dimethylamine | CNC | C2H7N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 2M, 0.5 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | methyl N-[1-(2,4-difluorophenyl)-2-(dimethylamino)-2-oxoethyl]-L-leucinate | 100 mg | FC1=C(C=CC(=C1)F)C(C(=O)N(C)C)N[C@@H](CC(C)C)C(=O)OC | C17H24F2N2O3
